US04517202
6-[(E)-3-tert-Butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (13 mg), prepared as described in Reference Example 51 and in the form of (±)-6β-[(E)-3α-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S,15R)-6a-oxo-6,9-methano-15-tert-butyldimethylsilyloxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate, and a solution of water, glacial acetic acid and tetrahydrofuran (0.53 ml; 7:13:2 by volume) were stirred together at 40° C. for 4 hours. After cooling, the mixture was diluted with saturated aqueous sodium chloride solution and extracted with diethyl ether. The extract was washed with aqueous sodium bicarbonate solution (1M) and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under reduced pressure. The residue was subjected to medium pressure liquid chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane (9:13 v/v), to give 6-[(E)-3-hydroxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (9.9 mg), in the form of (±)-6β-[(E)-3α-hydroxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S,15R)-6a-oxo-6,9-methano-15-hydroxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate [NMR (in deuterochloroform): multiplets at 6.8-7.3, 6.4-6.6, 5.6-5.8, 4.3-4.6, 3.8-4.0, 1.3- 2.8 p.p.m., singlet at 3.6 p.p.m⟧

reactant | 6-[(E)-3-tert-Butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 13 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)COC1=CC=CC=C1 | C30H44O5Si
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 0.53 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | [Cl-].[Na+]
product | 6-[(E)-3-hydroxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 9.9 mg | OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)COC1=CC=CC=C1 | C24H30O5
